US03974140
C. 1-Chlorocarbonyl-imidazolidine-2-thione:
50 parts by weight of 1-trimethylsilyl-imidazolidine-2-thione in 150 parts by volume of methylene chloride were treated with 35 parts by weight of phosgene in 50 parts by volume of methylene chloride over the course of 2 hours at 0°C. The mixture was stirred for 24 hours at 0°C, the methylene chloride was subsequently stripped off, and the residue was dried in a high vacuum. Semi-solid mass, incompletely soluble in acetone. Crude yield: 97% IR bands at 1830, 1590 and 1240 cm-1.

reactant | 1-trimethylsilyl-imidazolidine-2-thione | C[Si](N1C(NCC1)=S)(C)C | C6H14N2SSi
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Chlorocarbonyl-imidazolidine-2-thione | ClC(=O)N1C(NCC1)=S | C4H5ClN2OS
